US09334263B2
Synthesis of 2,2,4,4-tetramethyl-5-(4-nitrophenyl)-1,3-dioxolane
A solution of 2-methyl-1-(4-nitrophenyl)propane-1,2-diol (1.5 g, 7.1 mmol), 2,2-dimethoxypropane (1.45 g, 14.2 mmol) and TsOH (cat., 260 mg, 1.5 mmol) in acetone (40 mL) was stirred at 30° C. for 16 h. The reaction mixture was concentrated. The residue was purified by silica gel chromatography, eluting with PE:EA (8:1), to obtain the desired product (1.5 g, 85% yield) as a white solid. 1H-NMR (500 MHz, CDCl3) δ ppm 8.23 (d, 2H, J=9.0 Hz), 7.57 (d, 2H, J=9.0 Hz), 4.93 (s, 1H), 1.59 (s, 3H), 1.48 (s, 3H), 1.46 (s, 3H), 0.78 (s, 3H).

reactant | 2-methyl-1-(4-nitrophenyl)propane-1,2-diol | 7.1 mmol, 1.5 g | CC(C(O)C1=CC=C(C=C1)[N+](=O)[O-])(C)O | C10H13NO4
reactant | 2,2-dimethoxypropane | 14.2 mmol, 1.45 g | COC(C)(C)OC | C5H12O2
reactant | TsOH | 1.5 mmol, 260 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | EA | CC(OCC)=O | C4H8O2
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 2,2,4,4-tetramethyl-5-(4-nitrophenyl)-1,3-dioxolane | 1.5 g, 85% yield | CC1(OC(C(O1)(C)C)C1=CC=C(C=C1)[N+](=O)[O-])C | C13H17NO4
